US06699860B2
Preparation of (2R)-6-iodo-3,4-dihydro-2H-chromene-2-carboxylic Acid
(2R)-3,4-Dihydro-2H-chromene-2-carboxylic acid (WO 99/32476) (26.7 g, 150 mmol), benzyltrimethyl-ammonium dichloroiodate (50.1 g, 144 mmol) and zinc chloride (25.3 g, 186 mmol) were stirred in glacial acetic acid (500 mL) under argon at room temperature for 18 hours. The solid was removed by vacuum filtration and then washed with acetic acid (100 mL). The filtrate was concentrated in vacuo to obtain a solid which was slurried in water (300 mL). The crude product was obtained as a pink solid after vacuum filtration and dried (38.3 g, 84%): 1H NMR (DMSO-d6) δ1.95-2.10 (m, 1H), 2.60 (m, 1H), 2.70-2.80 (m, 1H), 4.79 (dd, J=6.0, 3.9 Hz, 1H), 6.63 (d, J=8.4 Hz, 1H), 7.36 (dd, J=8.1, 1.8 Hz, 1H), 7.38 (d, J=1.8 Hz, 1H). CI-MS m/z 305 (M+H+). The crude was used for next step directly.

reactant | (2R)-3,4-Dihydro-2H-chromene-2-carboxylic acid | 150 mmol, 26.7 g | O1[C@H](CCC2=CC=CC=C12)C(=O)O | C10H10O3
reactant | benzyltrimethyl-ammonium dichloroiodate | 144 mmol, 50.1 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
solvent | water | 300 mL | O | H2O
catalyst | zinc chloride | 186 mmol, 25.3 g | [Cl-].[Zn+2].[Cl-]
product | (2R)-6-iodo-3,4-dihydro-2H-chromene-2-carboxylic Acid | IC=1C=C2CC[C@@H](OC2=CC1)C(=O)O | C10H9IO3
